US07829560B2
3-Fluoro-N-(4-{[2-(4-hydroxypiperidin-1-yl)pyrimidin-4-yl]oxy}-1-naphthyl)-5-piperidin-1-ylbenzamide (Compound B387).
Compound is prepared from 3-fluoro-N-[4-(2-methanesulfonyl-pyrimidin-4-yloxy)-naphthalen-1-yl]-5-piperidin-1-yl-benzamide and piperidin-4-ol according to conditions described in general procedure C. Mp: 182-184° C.; 1H NMR (400 MHz, DMSO-d6) δ 1.15 (bs, 2 H), 1.58 (s, 8 H), 3.00 (bs, 2 H), 3.27 (s, 4 H), 3.61 (m, 1 H), 3.95 (bs, 2 H), 4.64 (d, J=4.0 Hz, 1 H), 6.19 (d, J=5.5 Hz, 1 H), 6.96 (d, J=12.8 Hz, 1 H), 7.15 (d, J=8.8 Hz, 1 H), 7.40 (d, J=8.4 Hz, 1 H), 7.46 (s, 1 H), 7.55-7.59 (m, 3 H), 7.82 (d, J=8.0 Hz, 1 H), 7.97 (d, J=8.4 Hz, 1 H), 8.22-8.24 (m, 1 H), 10.43 (s, 1 H).

reactant | 3-fluoro-N-[4-(2-methanesulfonyl-pyrimidin-4-yloxy)-naphthalen-1-yl]-5-piperidin-1-yl-benzamide | FC=1C=C(C(=O)NC2=CC=C(C3=CC=CC=C23)OC2=NC(=NC=C2)S(=O)(=O)C)C=C(C1)N1CCCCC1 | C27H25FN4O4S
reactant | piperidin-4-ol | N1CCC(CC1)O | C5H11NO
product | 3-Fluoro-N-(4-{[2-(4-hydroxypiperidin-1-yl)pyrimidin-4-yl]oxy}-1-naphthyl)-5-piperidin-1-ylbenzamide | FC=1C=C(C(=O)NC2=CC=C(C3=CC=CC=C23)OC2=NC(=NC=C2)N2CCC(CC2)O)C=C(C1)N1CCCCC1 | C31H32FN5O3
